US04013763
To a solution of 11.2 g. of the 2-(5-bromo-2-formamidobenzoyl)pyridine prepared in the experiment (a) in 50 ml. of methanol is added 10 ml. of hydrazine hydrate (100 %). The resulting mixture is heated at 60° C for several minutes and thereafter left to stand at room temperature for 5 hours. The resulting precipitate is collected by filtration and washed with methanol and ether and dried to give 3-amino-6-bromo-4-hydroxy-4-(2-pyridyl)-3,4-dihydroquinazoline as colorless granules melting at 185° to 187° C. (decomposition).

reactant | 2-(5-bromo-2-formamidobenzoyl)pyridine | BrC=1C=CC(=C(C(=O)C2=NC=CC=C2)C1)NC=O | C13H9BrN2O2
reactant | hydrazine hydrate | O.NN
solvent | methanol | CO | CH4O
product | 3-amino-6-bromo-4-hydroxy-4-(2-pyridyl)-3,4-dihydroquinazoline | NN1C=NC2=CC=C(C=C2C1(C1=NC=CC=C1)O)Br | C13H11BrN4O
